US07217724B2
To a solution of methyl (7-((diethylamino)carbonyl)-1H-indol-3-yl)acetate (1.87 g, 6.48 mmol) in tetrahydrofuran (30 mL) are added sodium borohydride (1.35 g, 35.7 mmol) and methanol (5 mL) under nitrogen atmosphere, and the mixture is stirred at room temperature for 24 hours, and then refluxed for 4 hours. The mixture is cooled to room temperature, and methanol is added to the reaction solution. The solvent is evaporated, and the residue is separated into water and chloroform. The organic layer is washed with a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated, and the obtained crude product is purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1→ethyl acetate ethyl acetate:methanol=5:1) to give N,N-diethyl-3-(2-hydroxyethyl)-1H-indole-7-carboxyamide (1.56 g, 5.99 mmol, yield: 92%).

reactant | methyl (7-((diethylamino)carbonyl)-1H-indol-3-yl)acetate | 6.48 mmol, 1.87 g | C(C)N(C(=O)C=1C=CC=C2C(=CNC12)CC(=O)OC)CC | C16H20N2O3
reactant | sodium borohydride | 35.7 mmol, 1.35 g | [BH4-].[Na+]
reactant | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N,N-diethyl-3-(2-hydroxyethyl)-1H-indole-7-carboxyamide | 5.99 mmol, 1.56 g, yield: 92% | C(C)N(C(=O)CC=1C=CC=C2C(=CNC12)CCO)CC | C16H22N2O2
